* Generated by electronics_design from a KiCad schematic
.include "LM3886.lib"
.include "GDZ16B.lib"
.include "Loudspeaker.lib"
.include "Tian_subckt.lib"
XU1 N002 N003 V+ V- N009 m2 lm3886
C2 N002 0 680p
C1 N001 IN 4.7u
R1 N001 0 20k
R2 N002 N001 1k
V1 IN 0 dc 0 ac 0 sin(0 1 1k)
R3 N003 N004 1k
C3 N004 0 470u
R4 N003 N010 20k
C6 N011 0 20n
C4 N006 N003 50p
R5 N006 N010 20k
R7 N009 N011 4.7
L1 N009 OUT 0.7u Rser=1m
R8 N009 OUT 10
D1 m1 m2 GDZ16B
C5 m1 0 68u
R6 m1 V- 10k
VP1 V+ 0 30
VN1 V- 0 -30
LS1 OUT 0 DC50FA8 Rser=1m
X999 N009 N010 loopgainprobe
.ic v(/m1)=0
.tran 1
.backanno
.end
